* c:\fossee\esim\library\subcircuitlibrary\lm386\lm386.cir

.include D.lib
.include PNP.lib
.include NPN.lib
q3 net-_q2-pad1_ net-_q2-pad1_ net-_q1-pad1_ Q2N2222
q4 net-_q4-pad1_ net-_q2-pad1_ net-_q1-pad1_ Q2N2222
q2 net-_q2-pad1_ net-_q1-pad3_ net-_q2-pad3_ Q2N2907A
q5 net-_q4-pad1_ net-_q5-pad2_ net-_q5-pad3_ Q2N2907A
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
q6 net-_q1-pad1_ net-_q6-pad2_ net-_q5-pad2_ Q2N2907A
q8 net-_q10-pad2_ net-_d2-pad2_ net-_q10-pad1_ Q2N2907A
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q1-pad1_ Q2N2222
q7 net-_d2-pad2_ net-_q4-pad1_ net-_q1-pad1_ Q2N2222
q9 net-_q9-pad1_ net-_d1-pad1_ net-_q10-pad1_ Q2N2222
d2 net-_d1-pad2_ net-_d2-pad2_ 1N4148
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
r5  net-_q2-pad3_ net-_r5-pad2_ 150
r6  net-_r5-pad2_ net-_q5-pad3_ 1.35k
r4  net-_r3-pad2_ net-_q2-pad3_ 15k
r3  net-_q9-pad1_ net-_r3-pad2_ 15k
r7  net-_q5-pad3_ net-_q10-pad1_ 17k
r2  net-_q6-pad2_ net-_q1-pad1_ 50k
r1  net-_q1-pad2_ net-_q1-pad1_ 50k
r8  net-_q9-pad1_ net-_d1-pad1_ 1.5k
* u1  net-_q5-pad3_ net-_q1-pad2_ net-_q6-pad2_ net-_q1-pad1_ net-_q10-pad1_ net-_q9-pad1_ net-_r3-pad2_ net-_r5-pad2_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
